US07612211B2
2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzenesulfonamide hydrochloride salt (Cpd 1)
2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzenesulfonamide (19 g, 42.5 mmol) was dissolved in EtOAc (1000 mL) with warming to near boiling for complete dissolution. To the stirred solution at rt (orange in color) was added aqueous HCl (1 N, 850 mL, 20 eq.) all at once. The resulting suspension was stirred for 30 min at room temperature. The solid was filtered, washed with a small amount of EtOAc and water. The solid was dried in a high vacuum (2 torr) oven at 45° C. for 16 h, to provide (15.71 g) of the title compound in 77% yield. Calculated C21H16N3O3F3S×1.0 HCl×0.08H2O: C, 51.97; H, 3.56; N, 8.66; Cl 7.30; F 11.74; S 6.61; KF 0.30 Found: C, 52.11; H, 3.38; N, 8.37; Cl 7.43; F 11.53; S 6.56; KF 0.27

reactant | 2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzenesulfonamide | 42.5 mmol, 19 g | FC(C1=CC=C(OCC2=NC3=C(N2)C=CC(=C3)C3=C(C=CC=C3)S(=O)(=O)N)C=C1)(F)F | C21H16F3N3O3S
reactant | HCl | 1 N, 850 mL, 20 eq. | Cl | ClH
solvent | EtOAc | 1000 mL | CCOC(=O)C | C4H8O2
product | 2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzenesulfonamide hydrochloride salt | 15.71 g, 77% yield | Cl.FC(C1=CC=C(OCC2=NC3=C(N2)C=CC(=C3)C3=C(C=CC=C3)S(=O)(=O)N)C=C1)(F)F | InChI=1S/C21H16F3N3O3S.ClH/c22-21(23,24)14-6-8-15(9-7-14)30-12-20-26-17-10-5-13(11-18(17)27-20)16-3-1-2-4-19(16)31(25,28)29;/h1-11H,12H2,(H,26,27)(H2,25,28,29);1H
